US06756512B2
3.1 g (0.02 mol) of 3-chloro-2-methylanisole are heated in 20 ml of 50% sulphuric acid for 18 hours with reflux. After cooling, the reaction mixture is extracted three times with dichloromethane, dried over sodium sulphate and concentrated to dryness under reduced pressure. 3-Chloro-2-methylphenol is obtained as a solid (2.9 g, content by HPLC: 11.7%, 12% of theory).

reactant | 3-chloro-2-methylanisole | 0.02 mol, 3.1 g | ClC=1C(=C(C=CC1)OC)C | C8H9ClO
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Chloro-2-methylphenol | ClC=1C(=C(C=CC1)O)C | C7H7ClO
